US08497264B2
A microwave vial was charged with (S)-7-bromo-3-methoxy-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.065 g, 0.173 mmol), 2-fluoropyridin-3-ylboronic acid (0.049 g, 0.346 mmol), potassium phosphate (0.110 g, 0.518 mmol), and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (6.12 mg, 8.64 μmol). The vial was flushed with Ar (g), dioxane (0.648 mL) and water (0.216 mL) were added in sequence. The vial was sealed and heated in a Biotage Initiator microwave reactor for 30 min at 100° C. The reaction was diluted with ethyl acetate and washed with water. The aqueous layer was extracted with EtOAc, and the combined organic layers were washed with brine, dried with sodium sulfate, filtered, and concentrated. The material was purified via column chromatography (0-10% MeOH/EtOAc) to afford 65 mg of (S)-7-(2-fluoropyridin-3-yl)-3-methoxy-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine as a light yellow solid.

reactant | (S)-7-bromo-3-methoxy-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.173 mmol, 0.065 g | BrC=1C=C2C(=CC1)OC=1C=NC(=CC1[C@]21COCC(=N1)N)OC | C16H14BrN3O3
reactant | 2-fluoropyridin-3-ylboronic acid | 0.346 mmol, 0.049 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | potassium phosphate | 0.518 mmol, 0.110 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 8.64 μmol, 6.12 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (S)-7-(2-fluoropyridin-3-yl)-3-methoxy-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 65 mg | FC1=NC=CC=C1C=1C=C2C(=CC1)OC=1C=NC(=CC1[C@]21COCC(=N1)N)OC | C21H17FN4O3
